US09371320B2
E) 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(4-(methylsulfonyl)piperazin-1-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine
To a solution of 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(piperazin-1-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine (260 mg) and triethylamine (112 mg) in dichloromethane (5 mL) was added methanesulfonyl chloride (99.0 mg) under ice-cooling. The reaction mixture was stirred at room temperature for 2 hr, and diluted with dichloromethane. The organic layer was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure to give the title compound (240 mg).

reactant | 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(piperazin-1-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 260 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCNCC2 | C23H21F2N5O
reactant | triethylamine | 112 mg | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 99.0 mg | CS(=O)(=O)Cl | CH3ClO2S
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | 1-(2,6-difluorophenyl)-4-methoxy-3-(4-(4-(methylsulfonyl)piperazin-1-yl)phenyl)-1H-pyrazolo[4,3-c]pyridine | 240 mg | FC1=C(C(=CC=C1)F)N1N=C(C=2C(=NC=CC21)OC)C2=CC=C(C=C2)N2CCN(CC2)S(=O)(=O)C | C24H23F2N5O3S
